US04597902
N'-[2-(Diethylamino)ethyl]-N-(1-methylethyl)-N-[2-(phenylsulfonyl)ethyl]thiourea
A mixture of 2.78 g (0.024 mole) of N,N-diethylethylenediamine and 4.82 g (0.027 mole) of 1,1'-thiocarbonyldiimidazole in 400 ml of tetrahydrofuran was stirred at room temperature for 1 hr. A solution of 5.00 g (0.022 mole) of N-[2-(phenylsulfonyl)ethyl]-2-propanamine in 100 ml of tetrahydrofuran was added, and the solution was refluxed for 48 hrs. The solvent was removed in vacuo and the residue was dissolved in 400 ml of a 50/50 mixture of methylene chloride and ether. The organic solution was extracted with water and was dried over magnesium sulfate. The solvent was removed in vacuo, and the residue was recrystallized from a mixture of methylene chlorideether-hexane to give 5.95 g (72.5%) of pale yellow solid, m.p. 81.5°-82.5° C.

reactant | N,N-diethylethylenediamine | 0.024 mole, 2.78 g | C(C)N(CCN)CC | C6H16N2
reactant | 1,1'-thiocarbonyldiimidazole | 0.027 mole, 4.82 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | N-[2-(phenylsulfonyl)ethyl]-2-propanamine | 0.022 mole, 5.00 g | C1(=CC=CC=C1)S(=O)(=O)CCNC(C)C | C11H17NO2S
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N'-[2-(Diethylamino)ethyl]-N-(1-methylethyl)-N-[2-(phenylsulfonyl)ethyl]thiourea | 5.95 g, 72.5% | C(C)N(CCNC(N(CCS(=O)(=O)C1=CC=CC=C1)C(C)C)=S)CC | C18H31N3O2S2
